datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1.C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH:10](C)[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH:11]=[CH2:10].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CCCCCC[Si:63](CCCCCC)(CCCCCC)[CH2:62][CH+:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]1 10,11=10,20"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCCC2)[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCC1.C[N+:21](C)=[CH:20]Cl>>C[N:21](C)[CH:20](Cl)[CH2:10][C+:11]1CCCCCCCCCC1 10,11=10,20;20,21=21"
"C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCC1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si:63](C)(C)[O+:12]=[C:11]1CCC[CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[O:12]CC[O:62]1.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:11]1=[O+:12]CC[O:62]1.C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][C:61](/[C:10]1=[C:11](\[O-:12])CCCCCCCCCC1)=[O:62].O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CC[O:72][C:61]([C:10]1([CH:20]2[C:21]3(S(=O)(=O)C(F)(F)F)[N+:22]([O-])([O-:23])[C:33](=[CH:32]3)[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)CCCCCCCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])=[CH:62]1 10=20;20,21=21"
"F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1CCC[C:11](=[CH2:10])CC1>>C1=CC=C([C:20]2([CH2:10][C+:11]3CCCCCC3)[S:31]CCC[S:41]2)C=C1 10,11=10,20"
"CC12C3(C)C4(C)C5(C)C1(C)[Zr:11]23451678(C)([CH3:10])C2(C)C1(C)C6(C)C7(C)C28C.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC12C3(C)C4(C)C5(C)C1(C)[Zr+:11]23451678(C)C2(C)C1(C)C6(C)C7(C)C28C.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH3:10])[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[N:12]1CCC[N:62](C)[C:11]1=[CH2:10]>>C[N+:12]1=[C:11]([CH2:10][CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[N:62](C)CCC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>C[Si:63](C)(C1=CC=CC=C1)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)C1=CC=CC=C1)[CH2:82][Si:83](C)(C)C1=CC=CC=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N:42]O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63].C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21,22;22,23=23"
